US07723333B2
4-(Benzylamino)-2-tert-butyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide
A mixture of 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.150 g, 0.500 mmol) and benzylamine (0.110 ml, 1.001 mmol) in DMF (2 ml) was heated in the microwave reactor at 120° C. for 15 mins. EtOAc was added, the mixture was washed with brine and evaporated to dryness. The residue was purified by silica gel column chromatography (Horizons Biotage) using 15-20% EtOAc in petroleum ether 40-60° C. as eluent to give the title compound (0.095 g, 51%) as a solid. 1H NMR (500 MHz CDCl3): δ 7.50-7.38 (m, 5H), 7.34-7.25 (m, 3H), 7.06-6.98 (m, 2H), 5.55 (bs, 1H), 4.02 (d, 2H), 1.77 (9H, s); 13C NMR (125 MHz, CDCl3): δ 159.8, 136.8, 133.0, 131.9, 129.8, 129.0, 128.7, 128.2, 127.6, 124.8, 108.2, 61.6, 48.4, 27.9; Mass Spectrum M+H+ 371.

reactant | 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.500 mmol, 0.150 g | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | benzylamine | 1.001 mmol, 0.110 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-(Benzylamino)-2-tert-butyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.095 g, 51% | C(C1=CC=CC=C1)NC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)(C)C)=O | C20H22N2O3S
